US08648099B2
b) 5-Cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid
In a 25 mL round-bottomed flask, the above prepared 5-cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester (830 mg, 3.02 mmol, Eq: 1.00) was combined with tetrahydrofuran (7 ml) and water (3.5 ml) to give a light yellow bi-phasic system. Lithium hydroxide (86.7 mg, 3.62 mmol, Eq: 1.2) was added and the reaction mixture was stirred vigorously at rt. TLC after ˜20 h showed the reaction to be incomplete with some remaining starting material. More lithium hydroxide (43.3 mg, 1.81 mmol, Eq: 0.6) was added and the reaction mixture was stirred at 40° C. TLC after 1 additional h indicated that the reaction was complete. Work up: 10 ml H2O and 7 ml 1N HCl were added and the reaction mixture was extracted with AcOEt (2×50 ml). The organic layers were washed with H2O/NaCl sol, combined, dried over Na2SO4 and concentrated in vacuo. The residue was triturated with heptane to afford 766 mg of the title compound as white powder; MS (EI) 260.0 (M−H)−.

reactant | 5-cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester | 3.02 mmol, 830 mg | COC(C1=CN=C(C(=C1)C1CC1)OCC(F)(F)F)=O | C12H12F3NO3
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
reactant | Lithium hydroxide | 3.62 mmol, 86.7 mg | [OH-].[Li+]
reactant | lithium hydroxide | 1.81 mmol, 43.3 mg | [OH-].[Li+]
reactant | HCl | 1N, 7 ml | Cl | ClH
solvent | H2O | 10 ml | O | H2O
solvent | water | 3.5 ml | O | H2O
product | 5-Cyclopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 766 mg | C1(CC1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C11H10F3NO3
